2168-05-11 06:45:00 Physician Resident Progress Note
Chief Complaint: malaise and weakness
   24 Hour Events:
 EKG - At [**2168-5-10**] 12:30 PM
 CHEST PAIN - At [**2168-5-10**] 04:32 PM
   pt c/o CP "3 minutes after i started eating". EKG revealing ST dep 1 mm
   V5, V6 per CCU TEAM- similar to previous tracing
 EKG - At [**2168-5-10**] 04:33 PM
   [**2089-5-9**]
   -in afternoon developed [**9-20**] CP with mild (< 1mm) ST anterolateral
   depressions and received nitro gtt and dilauded 0.5 with improvement to
   [**4-20**]. Was started on lasix 40mg IV ONCE for concern for worsening
   pulmonary edema causing demand ischemia made good urine.  When nitro
   gtt weaned CP returned.  gave IV metoprolol and GI cocktail and
   symptoms resolved.
   -Had big BM normalizing K to 5.7
   -Had altered mental status this AM in setting of glucose of 28,
   resolved briskly with 1 amp of D50 to 91. Lantus has been reduced from
   46 to 30 and SSI has been backed down.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsCodeine
   Nausea/Vomiting
   Vasotec (Oral) (Enalapril Maleate)
   Cough; Rash; mu
   Cortisporin (Otic) (Neomy Sulf/Polymyx B Sulf/Hc)
   Rash;
   Ciloxan (Ophthalmic) (Ciprofloxacin Hcl)
   Unknown;
   Atenolol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-5-10**] 08:00 PM
   Metoprolol - [**2168-5-10**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No more CP, no SOB. Feels better.
   Flowsheet Data as of  [**2168-5-11**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 71 (42 - 88) bpm
   BP: 131/37(63) {99/23(30) - 154/88(101)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.7 kg (admission): 96 kg
             Total In:
                                                                  1,014 mL
                                                                     74 mL
   PO:
                                                                    580 mL
             TF:
   IVF:
                                                                    434 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    520 mL
   Urine:
                                                                  1,895 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -881 mL
                                                                   -446 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   GENERAL: Overweight woman appears stated age. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. Xanthalesma present.
   NECK: Supple with JVD.
   CARDIAC: PMI enlarged. Regular, II/VI systolic murmur, blowing, normal
   S2. No r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Large
   echymoses around flanks. Resp were unlabored, no accessory muscle use.
   Some crackles at 1/3 of the way up. No wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Edema from upper shin, knees and thighs 1+. No c/c.
   SKIN: Stasis dermatitis. No ulcers, scars.
   Labs / Radiology
   181 K/uL
   9.4 g/dL
   275 mg/dL
   3.7 mg/dL
   23 mEq/L
   5.7 mEq/L
   83 mg/dL
   104 mEq/L
   138 mEq/L
   30.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2168-5-10**]  01:15 AM
                             [**2168-5-10**]  06:23 AM
                             [**2168-5-10**]  09:01 AM
                             [**2168-5-10**]  12:57 PM
                             [**2168-5-10**]  05:29 PM
                             [**2168-5-10**]  10:15 PM
   WBC
   5.3
   Hct
   30.5
   Plt
   181
   Cr
   3.8
   4.0
   3.7
   TropT
   0.14
   0.13
   0.13
   0.12
   0.15
   Glucose
   180
   161
   275
   Other labs: PT / PTT / INR:11.7/55.0/1.0, CK / CKMB /
   Troponin-T:86/12/0.15, Ca++:8.4 mg/dL, Mg++:3.1 mg/dL, PO4:5.4 mg/dL
   Imaging: CXR AP [**2168-5-10**] Wet Read:
   unchnaged cardiomegally with persistent vasc congestion and mild edema.
   improved retrocardiac aeration. no large effusion or new focal
   consolidation.
   Microbiology: Urine cx pending
   Assessment and Plan
 CHEST PAIN
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 BRADYCARDIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Elderly patient presenting again, as previously, with acute on chronic
   renal failure, hyperkalemia, hypermagnasemia, hyperphosphatemia.
   .
   # Chest pain: Probably demand ischemia also possible in the setting of
   acute on chronic heart failure given lateral ST depressions. Probably
   an anxiety component as well as this responded to ativan better than
   nitro gtt. Third set of enzymes were positive confirming NSTEMI via
   demand etiology. Unstable angina via plaque rupture in the ddx but less
   likely in setting of volume overload.
   - Continue heparin gtt for 48 hours from last episode of chest pain
   ([**2168-5-10**] at 4:30pm)
   - Goal negative 500-1000cc negative via lasix prn
   # Renal Failure
   Although fluid overloaded, creatinine has risen from 2.0 on [**5-4**] to 3.7
   on admission. Medications may have been given in error, in so far as
   the [**Hospital3 59**] list that the patient brought, OMR and DC summary
   list have some disparities. Particularly, lisinopril may have been
   given in excess by accident. One notable new medication is Bactrim.
   Renal faiure has led to hyperkalemia, hypermagnasemia,
   hyperphosphatemia, uremia. Uremia likely explains symptoms and
   hyperkalemia EKG changes.
   - Hold lisinopril for now
   - Hold hydralazine
   - Diurese gently per above
   - Renal recs, appreciate their input
   - Follow BUN/Cr closely while diuresing
   .
   # Bradycardia:
   Classic EKG findings of hyperkalemia, with probable junctional rhythm -
   P waves difficult to appreciate on EKG. AF with small atrial potentials
   and junctional rhythm are also possible. We will treat underlying
   hyperkalemia. Still with occasional moments of bradycardia and
   occasional dropped beat.
   - Continue to correct hyperkalemia
   - Consider restarting coreg today
   - Hold hydralazine (if becomes hypotensive, will not be able to
   accomodate with rate).
   .
   # Coronary Artery Disease
   NSTEMI via demand per above.
   - Continue ASA, plavix, heparin gtt
   - Continue statin
   .
   # Hyperkalemia: Resolving. Secondary to renal failure.
   - Monitor
   .
   # Chronic congetive systolic heart failure
   LVEF 40% on [**2168-3-7**]. Taking somewhere between 40 and 80 daily. Also
   on lisinopril (either 10 or 40).
   - Hold lisinopril
   - Foley and monitor I&Os
   - Hold BB (Coreg) given bradycardia
   .
   # Diabetes
   - ISS and fixed dose as per OMR 46 of glargine QHS
   .
   # Hypertension
   - Continue clonidine 0.2 [**Hospital1 **]
   - Hold hydralazine and add back as necessary (was on 75 mg TID)
   - Hold lisinopril (10 or 40 ?) given kidney injury
   - Continue amlodipine 10 QD
   .
   # FEN:
   # Access: PIV's
   # Prophylaxis:
   -DVT ppx with IV heparin
   -Bowel regimen with colace, senna, bisacodyl
   # Code: Presumed full
   # Communication: Patient and:
   Son - [**Name (NI) 11672**] (c) [**Telephone/Fax (1) 10570**]
   # Disposition: CCU for now
   ICU Care
   Nutrition: Regular; Low sodium / Heart healthy, Diabetic/Consistent
   Carbohydrate, Potassium: 2 gm
   Glycemic Control: Regular insulin sliding scale with reduced HS SSI
   dosing and lantus at 30 QHS
   Lines:
   18 Gauge - [**2168-5-10**] 02:06 AM
   20 Gauge - [**2168-5-10**] 02:24 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2168-05-12 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - No more CP
   - Again with hypoglycemia to 38 after big reductions in insulin,
   corrected briskly, will need to reduce insulin again today. Probably
   secondary to poor PO intake
   - Pt tearful when discussing repeated hospitalizations; e-mailed her
   PCP and cardiologist about whether palliative care discussion
   appropriate
   - restarted amlodipine and put lisinopril and valsartan on allergy list
   b/c of hyperkalemia
   Allergies:
   Codeine
   Nausea/Vomiting
   Vasotec (Oral) (Enalapril Maleate)
   Cough; Rash; mu
   Cortisporin (Otic) (Neomy Sulf/Polymyx B Sulf/Hc)
   Rash;
   Ciloxan (Ophthalmic) (Ciprofloxacin Hcl)
   Unknown;
   Atenolol
   Unknown;
   Lisinopril
   hyperkalemia;
   Diovan (Oral) (Valsartan)
   hyperkalemia;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Dextrose 50% - [**2168-5-12**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-5-12**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 73 (57 - 83) bpm
   BP: 101/76(80) {101/29(49) - 175/142(150)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.7 kg (admission): 96 kg
             Total In:
                                                                  1,411 mL
                                                                    217 mL
   PO:
                                                                  1,110 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    251 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                    485 mL
   Urine:
                                                                  2,220 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -809 mL
                                                                   -268 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GENERAL: Overweight woman appears stated age. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. Xanthalesma present.
   NECK: Supple with JVD.
   CARDIAC: PMI enlarged. Regular, II/VI systolic murmur, blowing, normal
   S2. No r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Large
   echymoses around flanks. Resp were unlabored, no accessory muscle use.
   Some crackles at 1/3 of the way up. No wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Edema from upper shin, knees and thighs 1+. No c/c.
   SKIN: Stasis dermatitis. No ulcers, scars.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   8.8 g/dL
   29 mg/dL
   2.8 mg/dL
   25 mEq/L
   5.3 mEq/L
   70 mg/dL
   109 mEq/L
   141 mEq/L
   27.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2168-5-10**]  01:15 AM
                             [**2168-5-10**]  06:23 AM
                             [**2168-5-10**]  09:01 AM
                             [**2168-5-10**]  12:57 PM
                             [**2168-5-10**]  05:29 PM
                             [**2168-5-10**]  10:15 PM
                             [**2168-5-11**]  05:33 AM
                             [**2168-5-11**]  04:05 PM
                             [**2168-5-12**]  04:30 AM
   WBC
   5.3
   5.8
   6.7
   Hct
   30.5
   28.1
   27.0
   Plt
   181
   199
   194
   Cr
   3.8
   4.0
   3.7
   4.1
   3.2
   2.8
   TropT
   0.14
   0.13
   0.13
   0.12
   0.15
   0.37
   0.95
   Glucose
   180
   161
   275
   30
   111
   29
   Other labs: PT / PTT / INR:12.1/60.7/1.0, CK / CKMB /
   Troponin-T:95/15/0.95, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Elderly patient presenting again, as previously, with acute on chronic
   renal failure, hyperkalemia, hypermagnasemia, hyperphosphatemia.
   .
   # Diabetes/hypoglycemia: pt continues to have episodes of hypoglycemia
   despite decreasing doses of NPH.  [**Month (only) 11**] be from poor renal clearance of
   insulin.  Risks of insulin outweigh benefits at this point given her
   recurrent hypoglycemic events
   - D/C NPH for now
   - plan to contact [**Name (NI) 294**] for long term plan regarding insulin
   - continue scaled down sliding scale with humalog
   .
   # Renal Failure
   Improving.  The patient originally presented fluid overloaded, and
   creatinine rose from 2.0 on [**5-4**] to 3.7 on admission.  Lisinopril may
   have been given in excess by accident at [**Hospital3 59**] center. One
   notable new medication is also Bactrim. Renal faiure led to
   hyperkalemia, hypermagnasemia, hyperphosphatemia, uremia. Uremia likely
   explains symptoms and hyperkalemia causing EKG changes.
   - Hold lisinopril for now
   - Hold hydralazine but will consider restarting
   - Diurese gently per above
   - Renal recs, appreciate their input
   - Follow BUN/Cr closely while diuresing
   .
   # Bradycardia:
   Classic EKG findings of hyperkalemia, with probable junctional rhythm -
   P waves difficult to appreciate on EKG. AF with small atrial potentials
   and junctional rhythm are also possible. We treated underlying
   hyperkalemia. Still with occasional moments of bradycardia and
   occasional dropped beat.
   - Continue to follow potassium
   - Since recently started amlodipine for hypertension will hold on
   restarting coreg today, but will consider in future
   - Hold hydralazine (if becomes hypotensive, will not be able to
   accomodate with rate).
   .
   # Coronary Artery Disease
   NSTEMI via demand per above.
   - Continue ASA, plavix, heparin gtt
   - Continue statin
   .
   # Chest pain: Resolved. Was likely GI related or anxiety as improved
   with GI cocktail and ativan.
   - stop hep gtt
   .
   # Troponin leak: Probably was demand ischemia in the setting of acute
   on chronic heart failure given lateral ST depressions. Third set of
   enzymes were positive confirming NSTEMI via demand etiology.
   - Stop hep gtt
   - continue to trend trop until peak
   # Hyperkalemia: Resolving. Secondary to renal failure.
   - Monitor
   .
   # Chronic congetive systolic heart failure
   LVEF 40% on [**2168-3-7**]. Taking somewhere between 40 and 80 daily. Also
   on lisinopril (either 10 or 40).
   - Hold lisinopril
   - Foley and monitor I&Os
   - Hold BB (Coreg) given recently started amlodipine, but will consider
   restarting tomorrow
   .
   # Hypertension
   - Continue clonidine 0.2 [**Hospital1 **]
   - Hold hydralazine and add back as necessary (was on 75 mg TID)
   - Hold lisinopril (10 or 40 ?) given kidney injury
   - Continue amlodipine 10 QD
   - consider restarting coreg tomorrow?
   .
   # FEN:
   # Access: PIV's
   # Prophylaxis:
   -DVT ppx with sub q heparin
   -Bowel regimen with colace, senna, bisacodyl
   # Code: Presumed full
   # Communication: Patient and:
   Son - [**Name (NI) 11672**] (c) [**Telephone/Fax (1) 10570**]
   # Disposition: call out to floor
 ANXIETY
 DIABETES MELLITUS (DM), TYPE II
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 CHEST PAIN
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 BRADYCARDIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   ------ Protected Section ------
   TITLE: CARDIOLOGY PROGRESS NOTE
   Cardiology Teaching Physician Progress Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr. [**Last Name (STitle) **].
   I would add the following remarks:
   History
   No chest pain on medical therapy.  Struggling with hypoglycermia and we
   are making adjustments to her insulin dosage.
   Medical Decision Making
   Continue maximal medical therapy and social support.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2168-5-12**] 20:46 ------

2168-05-13 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - consulted by [**Last Name (un) 294**]
   Allergies:
   Codeine
   Nausea/Vomiting
   Vasotec (Oral) (Enalapril Maleate)
   Cough; Rash; mu
   Cortisporin (Otic) (Neomy Sulf/Polymyx B Sulf/Hc)
   Rash;
   Ciloxan (Ophthalmic) (Ciprofloxacin Hcl)
   Unknown;
   Atenolol
   Unknown;
   Lisinopril
   hyperkalemia;
   Diovan (Oral) (Valsartan)
   hyperkalemia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-5-13**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 56 (55 - 79) bpm
   BP: 153/45(73) {101/27(54) - 172/82(93)} mmHg
   RR: 22 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 93.7 kg (admission): 96 kg
                  Total In:
                                                                    753 mL
                                                                    120 mL
   PO:
                                                                    580 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    645 mL
   Urine:
                                                                  1,900 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,147 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   GENERAL: Overweight woman appears stated age. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. Xanthalesma present.
   NECK: Supple with JVD.
   CARDIAC: PMI enlarged. Regular, II/VI systolic murmur, blowing, normal
   S2. No r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Large
   echymoses around flanks. Resp were unlabored, no accessory muscle use.
   Some crackles at 1/3 of the way up. No wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Edema from upper shin, knees and thighs 1+. No c/c.
   SKIN: Stasis dermatitis. No ulcers, scars.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   8.8 g/dL
   254 mg/dL
   2.4 mg/dL
   23 mEq/L
   5.4 mEq/L
   64 mg/dL
   107 mEq/L
   137 mEq/L
   26.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2168-5-10**]  01:15 AM
                             [**2168-5-10**]  06:23 AM
                             [**2168-5-10**]  09:01 AM
                             [**2168-5-10**]  12:57 PM
                             [**2168-5-10**]  05:29 PM
                             [**2168-5-10**]  10:15 PM
                             [**2168-5-11**]  05:33 AM
                             [**2168-5-11**]  04:05 PM
                             [**2168-5-12**]  04:30 AM
                             [**2168-5-13**]  03:36 AM
   WBC
   5.3
   5.8
   6.7
   6.8
   Hct
   30.5
   28.1
   27.0
   26.8
   Plt
   181
   199
   194
   182
   Cr
   3.8
   4.0
   3.7
   4.1
   3.2
   2.8
   2.4
   TropT
   0.14
   0.13
   0.13
   0.12
   0.15
   0.37
   0.95
   0.65
   Glucose
   180
   161
   275
   30
   111
   29
   254
   Other labs: PT / PTT / INR:10.6/24.6/0.9, CK / CKMB /
   Troponin-T:58/5/0.65, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   MICRO:
   Urine: probable enterococcus [**5-9**]
   Consults:
   [**Last Name (un) **]
 change back to  NPH Q am 16 units
   Aim for glucose 150-180
   Start sliding scale at 200
   Assessment and Plan
   Elderly patient presenting again, as previously, with acute on chronic
   renal failure, hyperkalemia, hypermagnasemia, hyperphosphatemia.
   .
   # Diabetes/hypoglycemia: pt continues to have episodes of hypoglycemia
   despite decreasing doses of NPH.  [**Month (only) 11**] be from poor renal clearance of
   insulin.  Risks of insulin outweigh benefits at this point given her
   recurrent hypoglycemic events
   - D/C NPH for now
   - plan to contact [**Name (NI) 294**] for long term plan regarding insulin
   - continue scaled down sliding scale with humalog
   .
   # Renal Failure
   Improving.  The patient originally presented fluid overloaded, and
   creatinine rose from 2.0 on [**5-4**] to 3.7 on admission.  Lisinopril may
   have been given in excess by accident at [**Hospital3 59**] center. One
   notable new medication is also Bactrim. Renal faiure led to
   hyperkalemia, hypermagnasemia, hyperphosphatemia, uremia. Uremia likely
   explains symptoms and hyperkalemia causing EKG changes.
   - Hold lisinopril for now
   - Hold hydralazine but will consider restarting
   - Diurese gently per above
   - Renal recs, appreciate their input
   - Follow BUN/Cr closely while diuresing
   .
   # Bradycardia:
   Classic EKG findings of hyperkalemia, with probable junctional rhythm -
   P waves difficult to appreciate on EKG. AF with small atrial potentials
   and junctional rhythm are also possible. We treated underlying
   hyperkalemia. Still with occasional moments of bradycardia and
   occasional dropped beat.
   - Continue to follow potassium
   - Since recently started amlodipine for hypertension will hold on
   restarting coreg today, but will consider in future
   - Hold hydralazine (if becomes hypotensive, will not be able to
   accomodate with rate).
   .
   # Coronary Artery Disease
   NSTEMI via demand per above.
   - Continue ASA, plavix, heparin gtt
   - Continue statin
   .
   # Chest pain: Resolved. Was likely GI related or anxiety as improved
   with GI cocktail and ativan.
   - stop hep gtt
   .
   # Troponin leak: Probably was demand ischemia in the setting of acute
   on chronic heart failure given lateral ST depressions. Third set of
   enzymes were positive confirming NSTEMI via demand etiology.
   - Stop hep gtt
   - continue to trend trop until peak
   # Hyperkalemia: Resolving. Secondary to renal failure.
   - Monitor
   .
   # Chronic congetive systolic heart failure
   LVEF 40% on [**2168-3-7**]. Taking somewhere between 40 and 80 daily. Also
   on lisinopril (either 10 or 40).
   - Hold lisinopril
   - Foley and monitor I&Os
   - Hold BB (Coreg) given recently started amlodipine, but will consider
   restarting tomorrow
   .
   # Hypertension
   - Continue clonidine 0.2 [**Hospital1 **]
   - Hold hydralazine and add back as necessary (was on 75 mg TID)
   - Hold lisinopril (10 or 40 ?) given kidney injury
   - Continue amlodipine 10 QD
   - consider restarting coreg tomorrow?
   .
   # FEN:
   # Access: PIV's
   # Prophylaxis:
   -DVT ppx with sub q heparin
   -Bowel regimen with colace, senna, bisacodyl
   # Code: Presumed full
   # Communication: Patient and:
   Son - [**Name (NI) 11672**] (c) [**Telephone/Fax (1) 10570**]
   # Disposition: call out to floor
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ANXIETY
 DIABETES MELLITUS (DM), TYPE II
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 CHEST PAIN
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 BRADYCARDIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-5-10**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: